US06939874B2
N4-(1H-Benzimidazol-2-yl)-N2-[4-(4-methylpiperazin-1-yl)-phenyl]-N4-(2,6-dimethyl-phenyl)-pyrimidine-2,4-diamine
A pressure tube was charged with a solution of 2-(N-(2-chloropyrimid-4-yl)-2,6-dimethylphenylamino)-1H-benzimidazole (50 mg, 0.14 mmol), from Example 155 Step F, 4-(4-methylpiperazin-1-yl)-phenylamine (27 mg, 0.14 mmol) in glacial AcOH (2 mL). The reaction, a dark brown solution, was heated to 100° C. for 18 h. The reaction was cooled to RT then basified by careful addition of 5M NaOH (15 mL). The aqueous solution was extracted with CH2Cl2. The combined organic extracts were dried (Na2SO4) and the solvent was removed in vacuo. The residue was purified by column chromatography (silica; CH2Cl2:MeOH; 9:1; containing TEA (0.2%)) to afford a light brown solid. MS m/z=505 (M+H). Calc'd for C30H32N8=504.

reactant | 2-(N-(2-chloropyrimid-4-yl)-2,6-dimethylphenylamino)-1H-benzimidazole | 0.14 mmol, 50 mg | ClC1=NC=CC(=N1)N(C1=NC2=C(N1)C=CC=C2)C2=C(C=CC=C2C)C | C19H16ClN5
reactant | 4-(4-methylpiperazin-1-yl)-phenylamine | 0.14 mmol, 27 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | NaOH | 5M, 15 mL | [OH-].[Na+]
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | N4-(1H-Benzimidazol-2-yl)-N2-[4-(4-methylpiperazin-1-yl)-phenyl]-N4-(2,6-dimethyl-phenyl)-pyrimidine-2,4-diamine | N1C(=NC2=C1C=CC=C2)N(C2=NC(=NC=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)C2=C(C=CC=C2C)C | C30H32N8
